US06638927B2
A mixture of 4-phenylcyclohexanone (28.7 mmol), hydroxylamine hydrochloride (36.0 mmol), and sodium acetate (60.95 mmol) in ethanol and water was heated at 70° C. overnight. Ethanol was removed, and the residue was dissolved in water and ethyl acetate. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried, and concentrated to give 1-(hydroxyimino)-4-phenylcyclohexane (97%).

reactant | 4-phenylcyclohexanone | 28.7 mmol | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | hydroxylamine hydrochloride | 36.0 mmol | Cl.NO
reactant | sodium acetate | 60.95 mmol | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(hydroxyimino)-4-phenylcyclohexane | 97% | ON=C1CCC(CC1)C1=CC=CC=C1 | C12H15NO
